US05225402
Sodium metaperiodate (0.28 g) is dissolved in water (4 ml) and thereto is added a solution of 1-{1-[4-(3-ethylthiopropoxy)benzoyl]-4-piperidinyl}-3,4-dihydrocarbostyril (0.4 g) in methanol (15 ml) and the mixture is stirred at room temperature overnight. The reaction mixture is concentrated and the residue is extracted with chloroform. The extract is dried with magnesium sulfate and the solvent is distilled off. The resulting residue is purified by silica gel column chromatography (solvent n-hexane ethyl acetate=1:2→ethyl acetate:methanol=20:1) to give 1-{1-[4-(3-ethylsulfinylpropoxy)benzoyl]-4-piperidinyl}-3,4-dihydrocarbostyril (0.12 g).

reactant | Sodium metaperiodate | 0.28 g | I(=O)(=O)(=O)[O-].[Na+]
reactant | 1-{1-[4-(3-ethylthiopropoxy)benzoyl]-4-piperidinyl}-3,4-dihydrocarbostyril | 0.4 g | C(C)SCCCOC1=CC=C(C(=O)N2CCC(CC2)N2C(=O)CCC3=CC=CC=C23)C=C1 | C26H32N2O3S
solvent | water | 4 ml | O | H2O
solvent | methanol | 15 ml | CO | CH4O
product | 1-{1-[4-(3-ethylsulfinylpropoxy)benzoyl]-4-piperidinyl}-3,4-dihydrocarbostyril | 0.12 g | C(C)S(=O)CCCOC1=CC=C(C(=O)N2CCC(CC2)N2C(=O)CCC3=CC=CC=C23)C=C1 | C26H32N2O4S
